Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hypoxia and chest pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ MEDICINE ATTENDING ADMISSION NOTE .
.
Date: ___

_
________________________________________________________________

PCP: Dr. ___

.

CC:Hypoxia and pleuritic chest pain 

_
________________________________________________________________
HPI: 
___ with a history of advanced AIDS ___ - CD4 count = 6 
HIV viral load 18K ___ , RLE DVT presents for pleuritic 
chest pain and  shortness of breath. Recent admission for 
dysphagia, found to likely have fungal esophagitis. Has had R 
pleuritic CP x 1.5 wks. SOB. No n/v, lightheadedness, change in 
appetite, fevers. Feels well overall. No inc pain in RLE. 
He is on the investigational agent ibalizumab via ___ Division of Infectious Disease and had his first
biweekly infusion yesterday.
He was diagnosed with a large deep venous thrombosis in the 
right
leg on ___. He was started on rivaroxaban, but because of
interactions of the rivaroxaban with the new HIV medications and
the study drug noted above, he had to discontinue this and go on
warfarin. The transition to warfarin, with bridging with
enoxaparin, took place five days ago.
He has had a chronic limitation in his exercise tolerance for 
the past year and a half. It has not been worsening. He denies 
cough. No sick contacts. No foreign travel or domestic travel. 
His room mate has a dog but no other pets. He walks on urban 
streets but has not had camping or out in the woods or forests. 
He had fevers to 103.3 6 weeks go but these have resolved. He 
denies dysuria, hematuria, recent trauma (apart from moving 
instruments around which he usually does and is not new for him) 
. He had thrush but this resolved with the use of clotrimazole 
trouches. He had mild epigastric pain which resolved with 
defecation. 
ER COURSE:
In ER: (Triage Vitals: 97.0|120|117/70|22|94% RA) 
EKG: NSR at 115. Mild LAD, NI. No STE. CWP. 
POCUS TTE: no effusion, LVEF WNL, no RV dilatation, TAPSE 2.31cm
PLAN:
Will obtain CTA, admit given hypoxia. Will check INR, likely 
start hep gtt.
Meds Given: Morphine 4 mg IV 
Fluids given: None
Radiology Studies: CTA and CXR
consults called: None
.
PAIN SCALE: ___ pleuritic RUQ pain. 
A ten point ROS is otherwise negative except as above. 

 
Past Medical History:
 -___ highly resistant to ___  
 -Right Lower Extremity DVT  
 -Inflammatory Colitis (thought to be UC)  
 -Asthma  
 -Hypothyroidism  
 -Hyperlipidemia  
 -Hypertension  
 
Social History:
___
Family History:
 Brother with ___ lymphoma  
 Father- ___, AAA
 
Physical Exam:
Vitals:98.5 PO___
96% on RA 
Ambulatory O2sat = 93% on RA 
CONS: NAD, comfortable appearing  
HEENT: ncat anicteric MMM    
CV: s1s2 tachy, regular no m/r/g  
RESP: b/l ae no w/c/r  
GI: +bs, soft, NT, ND, no guarding or rebound  
No pain in RUQ
Liver edge not clearly appreciated below costal margin
back:  
GU: No CVAT 
MSK:no c/c/e 2+pulses  
SKIN: no rash  
NEURO: face symmetric speech fluent  
PSYCH: calm, cooperative and pleasant 

Discharge PE:
97.5 120 / 74 101 18 97 Ra 
CONS: NAD, comfortable appearing  
HEENT: ncat anicteric MMM    
CV: RRR nl s1s2 no m/r/g  
RESP: b/l ae no w/c/r  
GI: +bs, soft, NT, ND, no guarding or rebound, No pain in RUQ
back: no back or CVA tenderness 
MSK:no c/c/e 2+pulses  
SKIN: no rash  
NEURO: face symmetric speech fluent  
PSYCH: calm, cooperative and pleasant 
 
Pertinent Results:
___ 03:15PM URINE  ___
___ 03:15PM URINE  ___
___ 03:15PM URINE  ___ SP ___
___ 03:15PM URINE  ___ 
___ 
___
___ 03:15PM URINE  ___ 
EPI-<1
___ 09:07AM   ___
___ 09:04AM   ___ UREA ___ 
___ TOTAL ___ ANION ___
___ 09:04AM   ___ this
___ 09:04AM   cTropnT-<0.01
___ 09:04AM   ___
___ 09:04AM   ___
___ 09:04AM   ___ 
___
___ 09:04AM   ___ 
___ 
___
___ 09:04AM   ___ 
___ 
___
___ 09:04AM   PLT ___ PLT ___
___ 09:04AM   ___ ___
+++++++++++++++++++++++++++++++++++
ADMISSION CTA: Images reviewed by author
1. No evidence of pulmonary embolism or aortic abnormality.
2. Small right pleural effusion.
++++++++++++++++++++++++++++
ADMISSION CXR:  Images reviewed by author:
1. Left PICC catheter terminates in the distal SVC.
2. No acute cardiopulmonary abnormality.
++++++++++++++++++++++++++++++

CT A/P ___:
IMPRESSION: 
1. No acute abnormalities are seen in the abdomen or pelvis. 
2. Cholelithiasis without evidence of acute cholecystitis. 
3. Moderate splenomegaly, stable since at least ___. 
4. Please see the separately dictated report for the CT of the 
chest performed on the same day for description of intrathoracic 
findings, including a trace right pleural effusion. 

Discharge labs:
___ 05:19AM BLOOD ___ 
___ Plt ___
___ 09:04AM BLOOD ___ ___
___ 05:19AM BLOOD ___ 
___
___ 05:19AM BLOOD ___ 
___
___ 05:19AM BLOOD ___ 
___
 
Brief Hospital Course:
The patient is a ___ year old male with advanced AIDS CD4 count= 
6 with multiple resistant HIV now on an experimental drug 
protocol who presents with RUQ pain x 1.5 weeks.

RUQ/right lower chest pain
Possibly musculoskeletal pain
Pleuritic pain in right lower chest/RUQ.  Etiology is unclear, 
LFTS WNL, UA reassuring, patient is able to eat without 
difficulties.  No SOB, cough, dyspnea.  ED reported hypoxia but 
had no hypoxia on floor and ambulatory O2 sat normal.  CT A/P 
showed no acute abnormalities.  He had pain but it was 
controlled with PO medications. Concern for musculoskeletal 
pain, possibly costochondritis.  He reports NSAIDs are 
___ due to his GI issues.     
- F/u with PCP
- ___ PRN oxycodone

HYPOXIA
Tachycardia
CTA chest showing no acute findings, small airway thickening 
possibly related to his history of asthma.  His hypoxia here 
possibly due to splinting, resolved on floor and ambulatory 
oxygen saturation normal. Tachycardia also resolved.  
-F/u with PCP

___:
- Continue acylovir/bactrim/azithromycin
- Continue Darunavir 800 mg PO BID |Dolutegravir 50 mg PO BID 
|Descovy ___ alafen) ___ mg oral DAILY 
|RiTONAvir 100 mg PO BID |
- Pt also on experimental medications in cinicic

Anemia: Worsening microcytic anemia, he denies any blood in 
stool or dark stools.  No evidence of hemolysis, iron studies 
indicating anemia of inflammation.  He has had recent EGD and 
colonoscopy without evidence of bleeding.
-F/u with PCP, recommend repeat CBC at visit.

HTN:
- continue amlodipine

COLITIS: 
-continue budesonide

CHRONIC DIASTOLIC HEART FAILURE
- Continue home Lasix

HYPOTHYROIDISM:
Continue Levothyroxine Sodium 50 mcg PO DAILY 

INSOMNIA:
Continue home meds

? PANCREATIC INSUFFICIENCY
-  Continue Creon 12 1 CAP PO QIDWMHS 

HLD:
- continue Pravastatin 40 mg PO QPM 

GERD:
Continue ranitidine 300 mg PO DAILY 

REACTIVE AIRWAY DISEAE
Continue Salmeterol Xinafoate Diskus (50 mcg) 1 INH IH Q12H 

Dispo: home with services
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q12H 
2. Albuterol Inhaler 2 PUFF IH Q4H:PRN SHORTNESS OF BREATH 
3. amLODIPine 2.5 mg PO DAILY 
4. azelastine 0.15 % (205.5 mcg) nasal BID 
5. Budesonide 9 mg PO DAILY 
6. Mytesi (crofelemer) 125 mg oral BID 
7. Darunavir 800 mg PO BID 
8. Dolutegravir 50 mg PO BID 
9. Descovy ___ alafen) ___ mg oral DAILY 

10. EPINEPHrine (EpiPEN) 0.3 mg IM ONCE MR1 
11. Furosemide 40 mg PO DAILY 
12. Levothyroxine Sodium 50 mcg PO DAILY 
13. Creon 12 1 CAP PO QIDWMHS 
14. LORazepam ___ mg PO QHS:PRN INSOMNIA 
15. Potassium Chloride 8 mEq PO DAILY 
16. Pravastatin 40 mg PO QPM 
17. Ranitidine 300 mg PO DAILY 
18. RiTONAvir 100 mg PO BID 
19. Salmeterol Xinafoate Diskus (50 mcg) 1 INH IH Q12H 
20. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
21. Warfarin 2.5 mg PO DAILY16 
22. Zolpidem Tartrate 10 mg PO QHS 
23. Ascorbic Acid ___ mg PO BID 
24. LOPERamide 2 mg PO QID:PRN DIARRHEA 
25. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
2.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - Severe 
RX *oxycodone 5 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*20 Tablet Refills:*0 
3.  Warfarin 2 mg PO DAILY16 
RX *warfarin 1 mg 2 tablet(s) by mouth once a day Disp #*60 
Tablet Refills:*0 
4.  Acyclovir 400 mg PO Q12H  
5.  Albuterol Inhaler 2 PUFF IH Q4H:PRN SHORTNESS OF BREATH  
6.  amLODIPine 2.5 mg PO DAILY  
7.  Ascorbic Acid ___ mg PO BID  
8.  azelastine 0.15 % (205.5 mcg) nasal BID  
9.  Budesonide 9 mg PO DAILY  
10.  Clotrimazole 1 TROC PO TID:PRN thrush  
11.  Creon 12 2 CAP PO QIDWMHS  
12.  Darunavir 800 mg PO BID  
13.  Descovy ___ alafen) ___ mg oral 
DAILY  
14.  Dolutegravir 50 mg PO BID  
15.  EPINEPHrine (EpiPEN) 0.3 mg IM ONCE MR1  
16.  Furosemide 40 mg PO DAILY  
17.  Fuzeon (enfuvirtide) 90 mg subcutaneous BID  
18.  Levothyroxine Sodium 50 mcg PO DAILY  
19.  LOPERamide 2 mg PO QID:PRN DIARRHEA  
20.  Loratadine 10 mg PO DAILY  
21.  LORazepam ___ mg PO QHS:PRN INSOMNIA  
22.  Metoclopramide 10 mg PO DAILY:PRN esophageal spasm  
23.  Multivitamins 1 TAB PO DAILY  
24.  Mytesi (crofelemer) 125 mg oral BID  
25.  Potassium Chloride 8 mEq PO BID  
26.  Pravastatin 40 mg PO QPM  
27.  Ranitidine 300 mg PO DAILY  
28.  RiTONAvir 100 mg PO BID  
29.  Salmeterol Xinafoate Diskus (50 mcg) 1 INH IH Q12H  
30.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY  
31.  Zolpidem Tartrate 10 mg PO QHS  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Pleuritic right sided lower chest/upper abdominal pain
Possibly musculoskeletal pain
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

You were admitted for pain in your right side when you take a 
deep breath.  You underwent a CT scan of your chest and your 
belly which did not find any cause of your pain.  Possibly the 
pain is due to irritation of the muscles in your ribs or upper 
belly.  Please follow up with your primary care physician as 
scheduled.

 
Followup Instructions:
___